US07495016B2
13.2 Preparation of 4-(2-benzyloxy-4-methoxyphenyl)-pyrrolidin-2-one
3-(2-Benzyloxy-4-methoxyphenyl)-4-nitro-butyric acid ethyl ester (5.2 g) was dissolved in 20 mL EtOAc and 30 mL of EtOH. Raney Ni was added and the mixture was stirred under H2 for 10 h. The mixture was filtered through celite, heated at 90° C. for 20 h and then cooled down to r.t. The mixture was then concentrated and purified on silica gel to give 3 g of the desired product. Yield: 72%.

reactant | 3-(2-Benzyloxy-4-methoxyphenyl)-4-nitro-butyric acid ethyl ester | 5.2 g | C(C)OC(CC(C[N+](=O)[O-])C1=C(C=C(C=C1)OC)OCC1=CC=CC=C1)=O | C20H23NO6
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Ni | [Ni] | Ni
product | 4-(2-benzyloxy-4-methoxyphenyl)-pyrrolidin-2-one | 3 g, Yield: 72% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C1CC(NC1)=O | C18H19NO3
